US07855292B2
A. 2-Amino-3-(3,4-dichloro-phenyl)-propionic acid methyl ester hydrochloride
To a stirred solution of (S)-2-tert-butoxycarbonylamino-3-(3,4-dichloro-phenyl)-propionic acid (0.67 g, 2.00 mmol) in MeOH (13 mL) at 0° C. was added SOCl2 (0.29 mL, 4.00 mmol). The reaction mixture was allowed to stir and warm to rt overnight. The mixture was concentrated to provide the product as a white solid (0.56 g, 99%). 1H NMR (400 MHz, DMSO-d6): 8.66 (br s, 2H), 7.65-7.60 (m, 2H), 7.26 (dd, J=8.2, 1.9, 1H), 4.37 (br s, 1H), 3.72 (s, 3H), 3.18-3.14 (m, 2H).

reactant | (S)-2-tert-butoxycarbonylamino-3-(3,4-dichloro-phenyl)-propionic acid | 2.00 mmol, 0.67 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC1=CC(=C(C=C1)Cl)Cl | C14H17Cl2NO4
reactant | SOCl2 | 4.00 mmol, 0.29 mL | O=S(Cl)Cl | Cl2OS
reactant | MeOH | 13 mL | CO | CH4O
product | 2-Amino-3-(3,4-dichloro-phenyl)-propionic acid methyl ester hydrochloride | 0.56 g, 99% | Cl.COC(C(CC1=CC(=C(C=C1)Cl)Cl)N)=O | InChI=1S/C10H11Cl2NO2.ClH/c1-15-10(14)9(13)5-6-2-3-7(11)8(12)4-6;/h2-4,9H,5,13H2,1H3;1H
